data/rdb19/train.csv
rxn,smiles,ea
1283,[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13]#[N:14])([H:15])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10](=[C:11]([C:12]([H:18])([H:19])[H:20])[C:13]#[N:14])([H:16])[H:17].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])[H:9])([H:7])[H:15])[H:6],38.93374580395175
329,[C:4]([C:5](=[C:6]([H:13])[H:14])[C:7](=[O:8])[O:9][H:15])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[O:1]([O:2][C:6]([C:5]([C:4]([H:10])([H:11])[H:12])[C:7](=[O:8])[O:9][H:15])([H:13])[H:14])[H:3],20.050500448734965
559,[C:3]([C:4]([C:5]([C:6]([H:16])([H:17])[H:18])([N:7]([C:8](=[O:9])[H:20])[H:19])[H:15])([H:13])[H:14])([H:10])([H:11])[H:12].[O:1][H:2]>>[C:8](=[O:9])[H:20].[O:1]([H:2])[N:7]([C:5]([C:4]([C:3]([H:10])([H:11])[H:12])([H:13])[H:14])([C:6]([H:16])([H:17])[H:18])[H:15])[H:19],43.32474555968656
2284,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[C:9]([C:10]([C:11]([H:22])([H:23])[H:24])([C:12]([H:25])([H:26])[H:27])[C:13](=[O:14])[O:15][C:16]([H:28])([H:29])[H:30])([H:20])[H:21])([H:5])([H:6])[H:7].[C:8]([H:17])([H:18])[H:19],69.03302017133683
2462,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8](=[C:9]([N:10]([C:11](=[O:12])[H:17])[H:16])[H:15])([H:13])[H:14]>>[C:11](=[O:12])[H:17].[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][N:10]([C:9](=[C:8]([H:13])[H:14])[H:15])[H:16],54.71860695327632
3590,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])=[C:5]([H:6])[H:7])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][C:23]1([H:37])[C:22]([H:36])=[C:21]([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:26]([H:40])=[C:25]([H:39])[C:24]1[H:38],38.694422653876245
542,[C:3]([C:4]([C:5]([C:6]([H:19])([H:20])[H:21])([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1][H:2]>>[C:3]([C:4]([C:5]([c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1]([H:2])[C:6]([H:19])([H:20])[H:21],40.88911670743255
3306,[C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20]([H:21])[H:22])([H:23])([H:24])[H:25].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2](=[C:3][H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7].[H:8][C:20]([C:17]([C:15]([O:14][C:13]([H:23])([H:24])[H:25])=[O:16])([C:18]([H:26])([H:27])[H:28])[C:19]([H:29])([H:30])[H:31])([H:21])[H:22],25.94951805874007
1275,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[O:7][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:4])[C:5](=[O:6])[O:7][H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:17]([N:16]([C:15](=[C:14]([H:19])[H:20])[H:21])[H:22])([O:18])[H:23],50.2537422987516
4512,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])[H:11])([C:4](=[O:5])[O:6][H:12])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:7])([H:8])[H:9],16.961044516589027
4475,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3][H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9].[H:10][C:15]([C:14]([C:13]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:16])[H:17],26.50495189573849
67,[C:12]([C:13]([C:14]([C:15]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17]([H:29])([H:30])[H:31])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]([C:15]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[C:17]([H:29])([H:30])[H:31])([H:21])[H:22])([H:18])[H:19].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:20])([H:6])([H:7])[H:8],28.68684096733341
2172,[C:11]([C:12]([C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[N:15]([C:16](=[O:17])[H:24])[H:23])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])[H:10])([H:8])[H:21])([H:6])[H:7],34.55244284035871
